US08138187B2
(±)-N-[1-Butyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine (1.5 g, 4.4 mmol) was suspended in HBr/glacial acetic acid (33% HBr, 20 ml). Sn powder (2.6 g, 22 mmol) was then added to the mixture in portions at RT in the course of 30 min. When the addition had ended, the reaction mixture was stirred at RT for a further 24 h.—For working up, the mixture was diluted with EtOH (20 ml) and concentrated to dryness on a rotary evaporator. The residue which remained was rendered basic by addition of 5 N NaOH (100 ml). The aqueous mixture obtained was extracted with methylene chloride (4×20 ml). The combined organic phases were washed with water (50 ml), dried over Na2SO4 and then concentrated. The residue obtained (1.5 g) was purified by column chromatography [silica gel 60 (70 g); EtOAc (400 ml), methanol (400 ml)]. 1-Butyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine (less polar diastereomer) was obtained in a yield of 141 mg (10%) as a brown oil. The more polar product had to be purified by a second column chromatography [silica gel 60 (50 g); methanol (200 ml), MeCN/methanol/1 M NH4Cl soln. 9:1:1, (250 ml)]. It was obtained in a yield of 125 mg (8%) as a yellow oil.

reactant | (±)-N-[1-Butyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)cyclohex-3-enyl]-N,N-dimethylamine | 4.4 mmol, 1.5 g | C(CCC)C1(CC=C(CC1)C=1NC2=CC=C(C=C2C1C)OC)N(C)C | C22H32N2O
solvent | HBr | 20 ml | Br | BrH
solvent | EtOH | 20 ml | CCO | C2H6O
product | 1-Butyl-4-(5-methoxy-3-methyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine | C(CCC)C1(CCC(CC1)C=1NC2=CC=C(C=C2C1C)OC)N(C)C | C22H34N2O
